US05798347
3βbenzyloxycarbonyloxy-5-androsten-17-one
To a stirred solution of dehydroepiandrosterone (2.88 g, 10 mmol) in methylene chloride (100 mL) is added dropwise benzylchloroformate, over a period of 30 min following the known procedure (F. Reber and T. Reichstein, Helv. Chim. Acta, 28, 1164, 1945). After stirring for 3 h, the mixture is washed with water and evaporated to dryness. The residue is then dissolved in acetone and precipitated in iced water. After 16 h, crystals are filtered and dried in vacuo.

reactant | dehydroepiandrosterone | 10 mmol, 2.88 g | C[C@]12CC[C@H]3[C@H]([C@@H]1CCC2=O)CC=C4[C@@]3(CC[C@@H](C4)O)C | C19H28O2
reactant | benzylchloroformate | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | 3βbenzyloxycarbonyloxy-5-androsten-17-one | C(C1=CC=CC=C1)OC(=O)O[C@@H]1CC2=CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)=O | C27H34O4
